US07592463B2
1-[(1R, 2R, 3S, 4R)-3-Propylbicyclo[2.2.1]hept-5-en-2-yl]-propan-1-one (Table 2, Entry 6):
Prepared according to general procedure A from oct-4-en-3-one (112 μL, 0.75 mmol), cyclopentadiene (93 μL, 1.13 mmol), 70% aqueous perchloric acid (12.9 μL, 0.15 mmol) and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (40.5 mg, 0.15 mmol) in water (150 μL) for 32 hours at 0° C. Purification by silica gel chromatography (15:1 pentane:ether) provided the title compound as a colorless oil in 84% yield (120 mg, 0.62 mmol); 15:1 endo:exo, endo 92% ee. IR (film) 3060, 2961, 2872, 1710, 1459, 1413, 1377, 1333, 1216, 1106, 1017, 935.7, 904.3, 716.7 cm−1; 1H NMR (300 MHz, CDCl3) δ 6.22 (dd, J=6.0, 3.3 Hz, 1H, CH═CH), 5.84 (dd,J=5.4, 2.7 Hz, 1H, CH═CH), 3.12 (m, 1H, CHCH═CH), 2.57 (m, 1H, CHCH═CH), 2.45 (m, 3H, CH2CO and CHCO), 1.83 (m, 1H, CH(nPr)), 1.59-1.19 (br m, 6H, CH3CH2CH2, and CHCH2CH), 1.02 (dd, J=6.0, 6.0 Hz, 3H, CH3), 0.89 (dd, J=7.2, 7.2 Hz, 3H, CH3); 13C NMR (75 MHz, CDCl3) δ 211.7, 138.8, 132.4, 59.5, 47.3, 47.2, 46.6, 41.4, 38.7, 35.1, 22.3, 14.7, 8.3; HRMS (CI) exact mass calc'd for (CH13H20O) requires m/z 192.1514, found m/z 192.1512. [α]D=+91.5 (c=1.0, CHCl3). Product ratios were determined by GLC analysis (150° C., 23 psi); (1R, 2R, 3S, 4R) endo isomer tr=6.0 min, and (1S, 2S, 3R, 4S) endo isomer tr=5.6 min, exo isomers tr=5.1, 5.4 min.

reactant | oct-4-en-3-one | 0.75 mmol, 112 μL | CCC(C=CCCC)=O | C8H14O
reactant | cyclopentadiene | 1.13 mmol, 93 μL | C1=CC=CC1 | C5H6
reactant | perchloric acid | 0.15 mmol, 12.9 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.15 mmol, 40.5 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
solvent | water | 150 μL | O | H2O
product | 1-[(1R, 2R, 3S, 4R)-3-Propylbicyclo[2.2.1]hept-5-en-2-yl]-propan-1-one | 84% yield | C(CC)[C@@H]1[C@@H]([C@H]2C=C[C@H]1C2)C(CC)=O | C13H20O
